US07592363B2
3-[4-(4-BENZOYLPIPERAZIN-1-YL)PHENYL]-2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE
Combined in a vial were 3-(4-piperazin-1-ylphenyl)-2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazole (0.10 g, 0.2 mmol), benzoyl chloride (0.030 g, 0.22 mmol), and diisopropylethylamine (0.2 mL) and THF (2 mL), which were stirred overnight at room temperature. Then the reaction mixture was diluted with ethyl acetate and water, and the organics washed with water and brine, then dried over magnesium sulfate. The crude product was purified by flash chromatography (silica 60, 5% EtOAc/CH2Cl2) to provide the title compound (0.06 g, 50%).

reactant | 3-(4-piperazin-1-ylphenyl)-2-(2,4,6-trifluorobenzyl)-7-(trifluoromethyl)-2H-indazole | 0.2 mmol, 0.10 g | N1(CCNCC1)C1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C25H20F6N4
reactant | benzoyl chloride | 0.22 mmol, 0.030 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | diisopropylethylamine | 0.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-[4-(4-BENZOYLPIPERAZIN-1-YL)PHENYL]-2-(2,4,6-TRIFLUOROBENZYL)-7-(TRIFLUOROMETHYL)-2H-INDAZOLE | 0.06 g, 50% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C(F)(F)F)CC1=C(C=C(C=C1F)F)F | C32H24F6N4O
